US06316437B1
Step D: Preparation of (+/−)-l-(1-cyano-2-propyl)-4-(4-fluorophenyl)piperidine
A solution of 4-(4-fluorophenyl)piperidine (360 mg, 2 mmol) and crotononitrile (0.33 mL, 4 mmol) in methanol (4 mL) was refluxed for five hours. The solvent was concentrated under vacuum and the residue triturated with hexane/diethyl ether to give the racemic title compound as a solid.

reactant | 4-(4-fluorophenyl)piperidine | 2 mmol, 360 mg | FC1=CC=C(C=C1)C1CCNCC1 | C11H14FN
reactant | crotononitrile | 4 mmol, 0.33 mL | C(\C=C\C)#N | C4H5N
solvent | methanol | 4 mL | CO | CH4O
product | (+/−)-l-(1-cyano-2-propyl)-4-(4-fluorophenyl)piperidine | C(#N)CC(C)N1CCC(CC1)C1=CC=C(C=C1)F | C15H19FN2
